US06620828B2
To a solution of 2-(4-aminosulfonylphenyl)amino-4-amino-thiazole-5-carbonitrile (0.59 g, 2 mmol) in 20% triethylamine/pyridine (50 ml) was bubbled H2S gas at ice-water temperature for 30 minutes. Then the reaction solution was sealed and stirred at room temperature overnight. Argon gas was bubbled through the reaction solution for 60 minutes to replace the H2S, and then the solvents were removed at reduced pressure. The residue was dissolved in EtOAc, and the EtOAc solution was then washed with 5% citric acid (50 ml×3) followed by brine. The solvent was removed in vacuo and the residue was triturated in Et2O. The product 2-(4-aminosulfonylphenyl)amino-4-amino-thiazole-5-carbothioamide was collected by filtration (0.56 g, 95%). To prepare the title compound, a solution of 2-(4-aminosulfonylphenyl)amino-4-amino-thiazole-5-carbothioamide (164 mg, 0.5 mmol) and α-bromoacetophenone (110 mg, 0.55 mmol) in MeOH (20 ml) was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was dissolved in EtOAc (50 ml). The EtOAc solution was washed with saturated NaHCO3 (10 ml), followed by brine. Purification of the residue by silica gel chromatography provided 4-(4′-amino-4-phenyl-[2,5′]bithiazolyl-2′-ylamino)-benzenesulfonamide. Mp 233-235° C. (decomp.). 1H NMR (CD3OD): δ7.96 (s, 1H), 7.82 (s, 4H), 7.44-7.25 (m, 4H). ESIMS (MH+): 430; (M−H−): 428.

reactant | 2-(4-aminosulfonylphenyl)amino-4-amino-thiazole-5-carbonitrile | 2 mmol, 0.59 g | NS(=O)(=O)C1=CC=C(C=C1)NC=1SC(=C(N1)N)C#N | C10H9N5O2S2
reactant | H2S | S | H2S
reactant | 2-(4-aminosulfonylphenyl)amino-4-amino-thiazole-5-carbothioamide | 0.5 mmol, 164 mg | NS(=O)(=O)C1=CC=C(C=C1)NC=1SC(=C(N1)N)C(N)=S | C10H11N5O2S3
reactant | α-bromoacetophenone | 0.55 mmol, 110 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | triethylamine pyridine | 50 ml | C(C)N(CC)CC.N1=CC=CC=C1
solvent | MeOH | 20 ml | CO | CH4O
product | 4-(4′-amino-4-phenyl-[2,5′]bithiazolyl-2′-ylamino)-benzenesulfonamide | NC=1N=C(SC1C=1SC=C(N1)C1=CC=CC=C1)NC1=CC=C(C=C1)S(=O)(=O)N | C18H15N5O2S3
